US04046799
Preparation of α-Isopropyl-2-naphthaleneacetic acid
A mixture of α-isopropyl-2-naphthaleneacetonitrile (264.3 g, 1.263 mole), concentrated sulfuric acid (660 ml) and water (660 ml), is heated at 140° C. for 12 hours. The mixture is allowed to cool slowly during which the acid precipitates. The solid is collected by filtration, washed thoroughly with cold water (4 × 500 ml), and dried in a vacuum oven at 50° C. The yield is 281 g (97.6%). The solid is taken up in hexane (750 ml) and benzene (750 ml) and brought to boiling. The cloudy solution on cooling gives a white crystalline solid, which is collected and dried; (227 g, 2 crops, 78.8%); m.p. 129°-130° C. An analytical sample prepared in another run has a m.p. of 130°-131° C.

reactant | α-isopropyl-2-naphthaleneacetonitrile | 1.263 mole, 264.3 g | C(C)(C)C(C#N)C1=CC2=CC=CC=C2C=C1 | C15H15N
reactant | sulfuric acid | 660 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 660 ml | O | H2O
product | α-Isopropyl-2-naphthaleneacetic acid | C(C)(C)C(C(=O)O)C1=CC2=CC=CC=C2C=C1 | C15H16O2
